US05059597
b) N-Allyl-N-(2-oxopropyl)-acetamide
85.5 g (0.425 mol) of N-allyl-N-(2,2-dimethoxypropyl)-acetamide are heated under reflux with 212 ml of formic acid for one hour. The mixture is poured onto 500 g of ice and extracted several times with methylene chloride, the organic phases are washed with sodium bicarbonate solution, dried over magnesium sulphate and concentrated and the residue is distilled.

reactant | N-allyl-N-(2,2-dimethoxypropyl)-acetamide | 0.425 mol, 85.5 g | C(C=C)N(C(C)=O)CC(C)(OC)OC | C10H19NO3
solvent | formic acid | 212 ml | C(=O)O | CH2O2
product | N-Allyl-N-(2-oxopropyl)-acetamide | C(C=C)N(C(C)=O)CC(C)=O | C8H13NO2
